US08466168B2
17.i. 8-allyl-7-chloro-2-methoxy-[1,5]naphthyridine
A flask charged with trifluoromethanesulfonic acid 3-chloro-6-methoxy-[1,5]naphthyridin-4-yl ester (1.50 g; prepared according to WO 2004/058144), allyltributylstannane (1.68 g) and DMF was degassed with N2. The reaction mixture was treated with LiCl (695 mg) and Pd(PPh3)4 (126 mg) and further stirred at 100° C. for 4 h. After cooling, the mixture was poured into 10% aq. NH4OH and EA, the aq. layer was extracted with EA and the combined org. layers were washed with water (2×) and brine, dried over MgSO4 and concentrated. The residue was purified by CC (Hept/EA 4:1), affording a yellow oil (795 mg; 77% yield).

reactant | trifluoromethanesulfonic acid 3-chloro-6-methoxy-[1,5]naphthyridin-4-yl ester | 1.50 g | ClC=1C=NC2=CC=C(N=C2C1OS(=O)(=O)C(F)(F)F)OC | C10H6ClF3N2O4S
reactant | allyltributylstannane | 1.68 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-allyl-7-chloro-2-methoxy-[1,5]naphthyridine | 77% yield | C(C=C)C=1C(=CN=C2C=CC(=NC12)OC)Cl | C12H11ClN2O
